US06635655B1
(2-Hydroxymethyl-6-methyl-phenoxy)-acetonitrile
A 2M triglyme solution of sodium borohydride (16.0 mL, 32.1 mmoles) is slowly added to a cooled (−78° C.) solution of 2-cyanomethoxy-3-methylbenzaldehyde (11.25 g, 64.2 mmoles) in THF (180 mL). After stirring for one hour, the reaction is warmed to 0° C. for two hours, then quenched with 2N HCl (16.8 mL) and diluted with ether. The organic layer is isolated and washed with twice with distilled water and brine, then dried over MgSO4. The organic solution is concentrated to give the title compound as a yellow oil.

reactant | triglyme | 2M | COCCOCCOCCOC | C8H18O4
reactant | sodium borohydride | 32.1 mmoles, 16.0 mL | [BH4-].[Na+]
reactant | 2-cyanomethoxy-3-methylbenzaldehyde | 64.2 mmoles, 11.25 g | C(#N)COC1=C(C=O)C=CC=C1C | C10H9NO2
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | (2-Hydroxymethyl-6-methyl-phenoxy)-acetonitrile | OCC1=C(OCC#N)C(=CC=C1)C | C10H11NO2
